US06020379
E. 5'-Fluoro-2'-Formyl-4-Methylthiobiphenyl
85% potassium hydroxide solution (66 g) is dissolved in ethanol (700 ml) and cooled to room temperature. To this with stirring is added methyl mercaptan subsurface (50 g), water (2ml) and a solution of 4-chloro-5'-fluoro-2'-formylbiphenyl (234.5 g) in ethanol (300 ml). A slow stream of methyl mercaptan is continuously fed in while the reaction mixture is held at reflux for 3 hours. The reaction is poured into water (1 liter), and the solid is filtered off. The solid is recrystallized from benzene.

reactant | potassium hydroxide | 66 g | [OH-].[K+]
reactant | methyl mercaptan | CS | CH4S
reactant | water | 2ml | O | H2O
reactant | 4-chloro-5'-fluoro-2'-formylbiphenyl | 234.5 g | ClC1=CC=C(C=C1)C1=C(C=CC(=C1)F)C=O | C13H8ClFO
reactant | water | 1 liter | O | H2O
solvent | ethanol | 700 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 5'-Fluoro-2'-Formyl-4-Methylthiobiphenyl | FC=1C=CC(=C(C1)C1=CC=C(C=C1)SC)C=O | C14H11FOS
